US06660744B1
Salicylaldehyde (0.034 g, 0.000282 mol) and trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.117 g, 0.000268 mol) were combined in absolute ethanol and stirred at ambient temperature for 48 hours. The reaction mixture was concentrated under reduced pressure and the residue dried overnight to yield trans-2-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)imino]methylphenol which was used without further purification. Trimethylsulfoxonium iodide (0.145 g, 0.00068 mol) was dissolved in anhydrous dimethylsulfoxide (2 mL) and a 60% dispersion of sodium hydride in parafine (0.027 g, 00068 mol) was added at once. After 10 min., the solution of trans-2-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl) imino]methylphenol in anhydrous dimethylsulfoxide (2 mL) was added and the resulting mixture was stirred at ambient temperature under an atmosphere of nitrogen for 2.5 hours. The solution was poured into ice-cold water (50 mL) and extracted with dichloromethane (2×40 mL). The combined organic extracts were dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield trans-3-[4-(2,3-dihydrobenzo[b]furan-3-ylamino)-3-methoxyphenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate (0.096 g, 0.000142 mol) as a white solid.

reactant | Trimethylsulfoxonium iodide | 0.00068 mol, 0.145 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
reactant | trans-2-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl) imino]methylphenol | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N=CC2=C(C=CC=C2)O)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H36N8O2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | trans-3-[4-(2,3-dihydrobenzo[b]furan-3-ylamino)-3-methoxyphenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate | 0.000142 mol, 0.096 g | C(C)(=O)O.C(C)(=O)O.O1C2=C(C(C1)NC1=C(C=C(C=C1)C1=NN(C3=NC=NC(=C31)N)[C@@H]3CC[C@H](CC3)N3CCN(CC3)C)OC)C=CC=C2 | InChI=1S/C31H38N8O2.2C2H4O2/c1-37-13-15-38(16-14-37)21-8-10-22(11-9-21)39-31-28(30(32)33-19-34-31)29(36-39)20-7-12-24(27(17-20)40-2)35-25-18-41-26-6-4-3-5-23(25)26;2*1-2(3)4/h3-7,12,17,19,21-22,25,35H,8-11,13-16,18H2,1-2H3,(H2,32,33,34);2*1H3,(H,3,4)/t21-,22-,25?;;
